* File: myFA.pex.netlist
* Created: Wed Nov 27 19:35:37 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myFA.pex.netlist.pex"
.subckt myFA  A B CIN GND! VDD! COUT S
* 
* S	S
* COUT	COUT
* VDD!	VDD!
* GND!	GND!
* CIN	CIN
* B	B
* A	A
MM13 N_NET4_MM13_d N_A_MM13_g N_GND!_MM13_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM14 N_NET4_MM13_d N_B_MM14_g N_GND!_MM14_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM12 N_NET79_MM12_d N_CIN_MM12_g N_NET4_MM12_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
MM15 N_NET79_MM15_d N_A_MM15_g NET12 N_GND!_XI9/MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.08e-14 AS=1.35e-14 PD=4.2e-07 PS=4.8e-07
MM16 NET12 N_B_MM16_g N_GND!_MM16_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM18 N_NET65_MM18_d N_A_MM18_g N_GND!_MM18_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM19 N_NET65_MM18_d N_B_MM19_g N_GND!_MM19_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.35e-14 AS=1.35e-14 PD=4.8e-07 PS=4.8e-07
MM20 N_NET65_MM20_d N_CIN_MM20_g N_GND!_MM19_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08
+ W=9e-08 AD=1.08e-14 AS=1.35e-14 PD=4.2e-07 PS=4.8e-07
MM17 N_NET35_MM17_d N_NET79_MM17_g N_NET65_MM17_s N_GND!_XI9/MM0_b NMOS_VTL
+ L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
MM21 N_NET35_MM21_d N_CIN_MM21_g NET64 N_GND!_XI9/MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.08e-14 AS=1.35e-14 PD=4.2e-07 PS=4.8e-07
MM22 NET64 N_A_MM22_g NET60 N_GND!_XI9/MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.35e-14 AS=1.35e-14 PD=4.8e-07 PS=4.8e-07
MM23 NET60 N_B_MM23_g N_GND!_MM23_s N_GND!_XI9/MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM0 N_NET7_MM0_d N_A_MM0_g N_VDD!_MM0_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
MM1 N_NET7_MM0_d N_B_MM1_g N_VDD!_MM1_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
MM2 N_NET79_MM2_d N_CIN_MM2_g N_NET7_MM2_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
MM4 N_NET79_MM4_d N_A_MM4_g NET071 N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.16e-14 AS=2.7e-14 PD=6e-07 PS=6.6e-07
MM3 NET071 N_B_MM3_g N_VDD!_MM3_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
MM5 N_NET42_MM5_d N_A_MM5_g N_VDD!_MM5_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
MM6 N_NET42_MM5_d N_B_MM6_g N_VDD!_MM6_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.7e-14 AS=2.7e-14 PD=6.6e-07 PS=6.6e-07
MM7 N_NET42_MM7_d N_CIN_MM7_g N_VDD!_MM6_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.16e-14 AS=2.7e-14 PD=6e-07 PS=6.6e-07
MM8 N_NET35_MM8_d N_NET79_MM8_g N_NET42_MM8_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
MM11 N_NET35_MM11_d N_CIN_MM11_g NET068 N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08
+ W=1.8e-07 AD=2.16e-14 AS=2.7e-14 PD=6e-07 PS=6.6e-07
MM10 NET068 N_A_MM10_g NET069 N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.7e-14 AS=2.7e-14 PD=6.6e-07 PS=6.6e-07
MM9 NET069 N_B_MM9_g N_VDD!_MM9_s N_VDD!_XI9/MM1_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
mXI9/MM0 N_COUT_XI9/MM0_d N_NET79_XI9/MM0_g N_GND!_XI9/MM0_s N_GND!_XI9/MM0_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI9/MM1 N_COUT_XI9/MM1_d N_NET79_XI9/MM1_g N_VDD!_XI9/MM1_s N_VDD!_XI9/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
mXI10/MM0 N_S_XI10/MM0_d N_NET35_XI10/MM0_g N_GND!_XI10/MM0_s N_GND!_XI9/MM0_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI10/MM1 N_S_XI10/MM1_d N_NET35_XI10/MM1_g N_VDD!_XI10/MM1_s N_VDD!_XI9/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
*
.include "myFA.pex.netlist.MYFA.pxi"
*
.ends
*
*
